US04060528
1.5 Parts of (-)-p-(2-thenoyl)hydratropic acid α-methylbenzylamine are suspended in water and acidified with hydrochloric acid. The product is extracted with ether. The organic layer is washed with water, dried and evaporated. The oily residue solidifies on triturating in petroleumether. The solidified product is filtered off and dried in vacuo at 50° C, yielding (+)-p-(2-thenoyl)hydratropic acid; [α] (1% in MeOH) = +44.5°.

reactant | (-)-p-(2-thenoyl)hydratropic acid α-methylbenzylamine | CC(C1=CC=CC=C1)N.C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | (+)-p-(2-thenoyl)hydratropic acid | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C14H12O3S
